US04786646
To a refluxing solution of 0.174 g of [3-(8-isoquinolinyl)propyl]-1H-isoindole-1,3-(2H)-dione in 8 mL of ethanol was added 0.12 mL of hydrazine hydrate and the reaction was stirred at reflux for 5.5 hours. The solvent was removed under reduced pressure and the residue was triturated with chloroform. The chloroform extract was concentrated to an oil which was passed through a short column of silica gel (chloroform-methanol-triethylamine; 1:4:15) to yield 0.103 g of 8-isoquinolinepropanamine as an oil.

reactant | [3-(8-isoquinolinyl)propyl]-1H-isoindole-1,3-(2H)-dione | 0.174 g | C1=NC=CC2=CC=CC(=C12)CCCN1C(C2=CC=CC=C2C1=O)=O | C20H16N2O2
reactant | hydrazine hydrate | 0.12 mL | O.NN
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 8-isoquinolinepropanamine | 0.103 g | C1=NC=CC2=CC=CC(=C12)CCCN | C12H14N2
